US06103910
b) (R)-1-[[3-[2-[(R)-2-Carboxy-pyrrolidin-1-yl]-2-oxo-ethoxy]-5-hydroxy -phenoxy]-acetyl]-pyrrolidine-2-carboxylic acid
A solution of 46 mg (0.084 mmol) (R)-1-[[3-[2-[(R)-2-tert -butoxycarbonyl-pyrrolidin-1-yl]-2-oxo-ethoxy]-5-hydroxy-phenoxy]-acetyl]-pyrrolidine-2-carboxylic acid tert-butyl ester in 1 ml trifluoroacetic acid was stirred for 4 h at room temperature. The solvent was removed in vacuo and the residue suspended in 5 ml ether. The resulting suspension was stirred overnight. Filtration and drying gave 35 mg (96%) of the title compound as a light brown powder. MS m/e (%): 435 (M-H-, 100).

reactant | (R)-1-[[3-[2-[(R)-2-tert -butoxycarbonyl-pyrrolidin-1-yl]-2-oxo-ethoxy]-5-hydroxy-phenoxy]-acetyl]-pyrrolidine-2-carboxylic acid tert-butyl ester | 0.084 mmol, 46 mg | C(C)(C)(C)OC(=O)[C@@H]1N(CCC1)C(COC1=CC(=CC(=C1)O)OCC(=O)N1[C@H](CCC1)C(=O)OC(C)(C)C)=O | C28H40N2O9
solvent | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (R)-1-[[3-[2-[(R)-2-Carboxy-pyrrolidin-1-yl]-2-oxo-ethoxy]-5-hydroxy -phenoxy]-acetyl]-pyrrolidine-2-carboxylic acid | 35 mg, 96% | C(=O)(O)[C@@H]1N(CCC1)C(COC=1C=C(OCC(=O)N2[C@H](CCC2)C(=O)O)C=C(C1)O)=O | C20H24N2O9
